US05071999
b) Ethyl N-(2-fluoroallyl)-N-(2-oxoethyl)-carbamate
14.1 g (60 mmol) of ethyl N-(2,2-dimethoxyethyl) -N-(2-fluoroallyl)-carbamate are heated under reflux for three hours with 6.3 ml of formic acid in 120 ml of water. The solution is saturated with sodium chloride and extracted several with methylene chloride, the organic solutions are washed with saturated sodium hydrogen carbonate solution, dried over magnesium sulphate and concentrated, and the residue is distilled.

reactant | ethyl N-(2,2-dimethoxyethyl) -N-(2-fluoroallyl)-carbamate | 60 mmol, 14.1 g | COC(CN(C(OCC)=O)CC(=C)F)OC | C10H18FNO4
reactant | formic acid | 6.3 ml | C(=O)O | CH2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 120 ml | O | H2O
product | Ethyl N-(2-fluoroallyl)-N-(2-oxoethyl)-carbamate | FC(CN(C(OCC)=O)CC=O)=C | C8H12FNO3
